US03975443
A solution of N-[2-methylamino-2-methylpropyl]benzamide (1. g.,) in MEK (25 ml.) was added to a solution of allyl bromide (0.58 g.,) in MEK (25 ml.) containing sodium carbonate (0.55 g.,) and a few crystals of sodium iodide. The mixture was refluxed for 24 hrs. The inorganic solids were filtered off and the filtrant concentrated by evaporation under reduced pressure. The liquid residue was eluted down an alumina column with ethyl acetate to give N-[2-(allylmethylamino)-2-methylpropyl]benzamide 1.1 g.

reactant | N-[2-methylamino-2-methylpropyl]benzamide | CNC(CNC(C1=CC=CC=C1)=O)(C)C | C12H18N2O
reactant | allyl bromide | 0.58 g | C(C=C)Br | C3H5Br
reactant | sodium carbonate | 0.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | MEK | 25 ml | CCC(=O)C | C4H8O
solvent | MEK | 25 ml | CCC(=O)C | C4H8O
product | N-[2-(allylmethylamino)-2-methylpropyl]benzamide | 1.1 g | C(C=C)CNC(CNC(C1=CC=CC=C1)=O)(C)C | C15H22N2O
